US07767674B2
1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-[3-(piperidin-4-yloxy)-phenyl]-urea
A mixture of 1-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3-{3-[1-(benzyloxy)-carbonyl-piperidin-4-yloxy]phenyl}urea. (Example 54. below, 6.62 g, 13.1 mmol) and 10% palladium on carbon (1 g) in ethanol (200 mL) is stirred at 22° C. under hydrogen gas for 2.5 hours. The catalyst is removed by filtration. The filtrate is concentrated to give brown oil, which solidifies upon standing at 22° C. over weekend. The residue is purified on a silica gel chromatography by eluting with methanol and dichloromethane. A peach color solid is obtained (3.51 g, 72% yield, ES+(m/z) 372.3 [M+H]).

reactant | 1-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3-{3-[1-(benzyloxy)-carbonyl-piperidin-4-yloxy]phenyl}urea | C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NC1=CC(=CC=C1)OC1CC(N(CC1)OCC1=CC=CC=C1)=C=O | C28H33N5O4
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-[3-(piperidin-4-yloxy)-phenyl]-urea | 72% yield | C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NC1=CC(=CC=C1)OC1CCNCC1 | C20H29N5O2
